US20010025109A1
50 g (0.15 mol) of 3-benzyloxycarbonyl-amino-1-(4-cyanophenyl)-2-oxo-pyrrolidine are suspended in 600 ml of methanol, and 14.1 ml of 36% hydrochloric acid are added. After the addition of 2.5 g of 5% palladium on activated carbon, hydrogen is passed through at 45° C. After 40 minutes, the mixture is cooled, the catalyst is filtered off and the filtrate is concentrated to dryness. Recrystallisation from methanol/isopropanol yields 28.5 g (80%) of 3-amino-1-(4-cyanophenyl)-2-oxo-pyrrolidine hydrochloride.

reactant | 3-benzyloxycarbonyl-amino-1-(4-cyanophenyl)-2-oxo-pyrrolidine | 0.15 mol, 50 g | C(C1=CC=CC=C1)OC(=O)C1(C(N(CC1)C1=CC=C(C=C1)C#N)=O)N | C19H17N3O3
reactant | hydrochloric acid | 14.1 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | 600 ml | CO | CH4O
catalyst | palladium on activated carbon | 2.5 g | [Pd] | Pd
product | 3-amino-1-(4-cyanophenyl)-2-oxo-pyrrolidine hydrochloride | 28.5 g, 80% | Cl.NC1C(N(CC1)C1=CC=C(C=C1)C#N)=O | InChI=1S/C11H11N3O.ClH/c12-7-8-1-3-9(4-2-8)14-6-5-10(13)11(14)15;/h1-4,10H,5-6,13H2;1H
